US06380215B1
To a solution of N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(tert-butoxycarbonyl)amino-β-alanine ethyl ester (5.98 g) in ethyl acetate (60 ml) was added a solution of 4N HCl in ethyl acetate (24.2 ml) under stirring at 0° C. After stirring at ambient temperature for 2 hours, the resulting precipitates were collected by filtration to give N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-amino-β-alanine ethyl ester hydrochloride (3.41 g).

reactant | N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(tert-butoxycarbonyl)amino-β-alanine ethyl ester | 5.98 g | C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C32H48N4O8
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 24.2 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-amino-β-alanine ethyl ester hydrochloride | 3.41 g | Cl.C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)N)=O | InChI=1S/C27H40N4O6.ClH/c1-2-36-26(34)23(28)17-29-25(33)22-9-6-14-31(18-22)24(32)11-10-20-12-15-30(16-13-20)27(35)37-19-21-7-4-3-5-8-21;/h3-5,7-8,20,22-23H,2,6,9-19,28H2,1H3,(H,29,33);1H/t22-,23+;/m1./s1
